US08871796B2
2-(3-{5-[4-(dimethoxymethyl)phenoxy]-1-ethyl-1H-pyrazol-3-yl}phenyl)propan-2-amine (8.84 g, 22.35 mmol, 1 equiv) was stirred at −78° C. in anhydrous DCM (224 mL). 2,2,2-trifluoroethanesulfonyl chloride (4.90 g, 26.80 mmol, 1.2 equiv) was added, followed by triethylamine (4.67 mL, 33.50 mmol, 1.5 equiv). After stirring at −78° C. for 10 minutes the cooling bath was removed and the mixture was allowed to slowly warm to 22° C. Upon reaching 22° C. 7:1 Water:TFA (4.5 equiv) was added to the vigorously stirring reaction mixture. After stirring for 1 hour the mixture was partitioned between water and DCM. The organic layer was washed with brine, dried over anhydrous magnesium sulfate and concentrated in vacuo to give the N-(2-{3-[1-ethyl-5-(4-formylphenoxy)-1H-pyrazol-3-yl]phenyl}propan-2-yl)-2,2,2-trifluoroethanesulfonamide (98% Yield). Calcd (M+1)+: 496.1. Found: 496.1.

reactant | 2-(3-{5-[4-(dimethoxymethyl)phenoxy]-1-ethyl-1H-pyrazol-3-yl}phenyl)propan-2-amine | 22.35 mmol, 8.84 g, 1 equiv | COC(C1=CC=C(OC2=CC(=NN2CC)C=2C=C(C=CC2)C(C)(C)N)C=C1)OC | C23H29N3O3
reactant | 2,2,2-trifluoroethanesulfonyl chloride | 26.80 mmol, 4.90 g, 1.2 equiv | FC(CS(=O)(=O)Cl)(F)F | C2H2ClF3O2S
reactant | triethylamine | 33.50 mmol, 4.67 mL, 1.5 equiv | C(C)N(CC)CC | C6H15N
reactant | TFA | 4.5 equiv | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 224 mL | C(Cl)Cl | CH2Cl2
solvent | Water | O | H2O
product | N-(2-{3-[1-ethyl-5-(4-formylphenoxy)-1H-pyrazol-3-yl]phenyl}propan-2-yl)-2,2,2-trifluoroethanesulfonamide | 98% Yield | C(C)N1N=C(C=C1OC1=CC=C(C=C1)C=O)C=1C=C(C=CC1)C(C)(C)NS(=O)(=O)CC(F)(F)F | C23H24F3N3O4S
